US05576324
The obtained 7-n-hexyl-1,2,3,4,5,6,7,8-octahydroquinoline-2,5-dione (11.0 g) was suspended in decalin (150 ml). To the suspension, 10% palladium-on-carbon (3.7 g) was added, followed by stirring at 200° C. for 17 hours. After completion of the reaction, the insoluble matter was collected by filtration, washed with ether, then extracted with a solvent mixture of chloroform-methanol (2:1). The extract was dried to solidity under reduced pressure. Recrystallization from methanol yielded 9.56 g of 7-n-hexyl-5-hydroxycarbostyril as colorless needles having a melting point of 252°-255° C. (dec.) (87.9%).

reactant | 7-n-hexyl-1,2,3,4,5,6,7,8-octahydroquinoline-2,5-dione | 11.0 g | C(CCCCC)C1CC(C=2CCC(NC2C1)=O)=O | C15H23NO2
solvent | decalin | 150 ml | C1CCCC2CCCCC12 | C10H18
catalyst | palladium-on-carbon | 3.7 g | [Pd] | Pd
product | 7-n-hexyl-5-hydroxycarbostyril | 9.56 g | C(CCCCC)C1=CC(=C2C=CC(NC2=C1)=O)O | C15H19NO2
